US04900728
A solution of 3.34 g of the product Step A in 20 ml of methylene chloride was cooled to -50° C. and 2.8 ml of triethylamine were added all at once. A solution of 4 g of phthalimidoacetic acid chloride in 20 ml of methylene chloride was added thereto over 20 minutes. The mixture was stirred for one hour at 0° to -5° C. and was then poured into a decanting flask. The decanted organic phase was washed with 50 ml of demineralized water and 5 ml of a molar aqueous solution of sodium bicarbonate, and then twice with 30 ml of demineralized water. The wash water was re-extracted with 20 ml of methylene chloride and the combined organic phases were dried, rinsed and evaporated to dryness under vacuum. The 6 g of residue were chromatographed over silica gel and eluted with methylene chloride containing 5% ether. The fraction with an Rf=0.45 was evaporated to dryness and the residue was triturated with 10 ml of ether. The separated product was rinsed three times with 2 ml of ether and dried under vacuum to obtain 1.25 g of cis N-benzyl-3-phthalimido-4-chloromethyl-2-azetidinone melting at 149° C.

reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | phthalimidoacetic acid chloride | 4 g | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | cis N-benzyl-3-phthalimido-4-chloromethyl-2-azetidinone | 1.25 g | C(C1=CC=CC=C1)N1C([C@H]([C@H]1CCl)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C19H15ClN2O3
